US08497294B2
1D. [2-(4-Chloro-phenyl)-2-hydroxy-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl]-carbamic acid tert-butyl ester (Suzuki coupling reaction)
[2-(4-Chloro-phenyl)-2-hydroxy-2-(4-iodo-phenyl)-ethyl]-carbamic acid tert-butyl ester (5 g, 10.6 mmol) was combined with 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (4.1 g, 21.11 mmol) and potassium phosphate (tribasic, 7.88 g, 37.10 mmol) in a round-bottomed flask. The solids were then dissolved in a solvent mixture of 1:1:1:1 ethanol, methanol, toluene and water (33 mL of each solvent). The solution was degassed with nitrogen and tetrakistriphenylphosphine palladium (0) (0.612 g, 0.53 mmol) was added. The mixture was degassed with nitrogen and then heated at 85° C. under nitrogen for 2 hours. The reaction mixture was then allowed to cool to room temperature. Additional batches of reagents were then added: potassium phosphate (7.88 g, 37.10 mmol) and pyrazole boronate (4.1 g, 21.11 mmol). The reaction mixture was degassed with nitrogen and a further batch of tetrakistriphenylphosphine palladium (0) (0.101 g, 0.087 mmol) was added. The reaction mixture was degassed and then heated at 85° C. under nitrogen for 17 hours. Additional batches of reagents were added again (refer to quantities above) and heating was continued at 85° C. under nitrogen for a further 6.5 hours. The reaction mixture was then allowed to cool to room temperature and was evaporated in vacuo to remove the organic solvent. The residual aqueous layer was diluted with aqueous 2N NaOH solution (150 mL) then extracted with ethyl acetate (150 mL). The organic layer was separated off and washed with aqueous 2N NaOH solution (150 mL) followed by brine (150 mL). The organic layer was separated off, dried (MgSO4) and concentrated in vacuo. The residue was triturated with diethyl ether. The solid was filtered in vacuo then dried to afford the title compound as a white solid (2.55 g, 58%). LC/MS: (PS-B5) Rt 3.05 [M+H]+ 414.18. 1H NMR (Me-d3-OD) 7.95 (2H, br s), 7.55 (2H, d), 7.48-7.41 (4H, m), 7.31 (2H, d), 3.87 (2H, q), 1.35 (9H, s).

reactant | [2-(4-Chloro-phenyl)-2-hydroxy-2-(4-iodo-phenyl)-ethyl]-carbamic acid tert-butyl ester | 10.6 mmol, 5 g | C(C)(C)(C)OC(NCC(C1=CC=C(C=C1)I)(O)C1=CC=C(C=C1)Cl)=O | C19H21ClINO3
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 21.11 mmol, 4.1 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | potassium phosphate | 37.10 mmol, 7.88 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | potassium phosphate | 37.10 mmol, 7.88 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | pyrazole boronate | 21.11 mmol, 4.1 g | B(O)O.N1N=CC=C1
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | [2-(4-Chloro-phenyl)-2-hydroxy-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl]-carbamic acid tert-butyl ester | 2.55 g, 58% | C(C)(C)(C)OC(NCC(C1=CC=C(C=C1)C=1C=NNC1)(O)C1=CC=C(C=C1)Cl)=O | C22H24ClN3O3
